US05783572
Methylmagnesium bromide (2.3 mL, 1M in di-n-butylether, 2.3 mmol) was added to a suspension of 6,7-dichloro-2,3-dimethoxy-5-formylquinoxaline (600 mg, 2.09 mmol) in dry tetrahydrofuran (30 mL) under nitrogen at room temperature. After 30 minutes, saturated ammonium chloride (20 mL) was added, and the product was extracted into ethyl acetate (2×30 mL). The combined extracts were dried (MgSO4) and concentrated under reduced pressure to give 6,7-dichloro-2,3-dimethoxy-5-(1-hydroxyethyl)quinoxaline (577 mg, 91%), as a creamy coloured solid.

reactant | Methylmagnesium bromide | 2.3 mmol, 1M, 2.3 mL | C[Mg]Br
reactant | 6,7-dichloro-2,3-dimethoxy-5-formylquinoxaline | 2.09 mmol, 600 mg | ClC=1C(=C2N=C(C(=NC2=CC1Cl)OC)OC)C=O | C11H8Cl2N2O3
reactant | ammonium chloride | 20 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 6,7-dichloro-2,3-dimethoxy-5-(1-hydroxyethyl)quinoxaline | 577 mg, 91% | ClC=1C(=C2N=C(C(=NC2=CC1Cl)OC)OC)C(C)O | C12H12Cl2N2O3
